US08383652B2
382 mg (9.5 mmol) of sodium hydride are added to a solution of 1.9 mL (9.5 mmol) of commercial triethyl 2-fluoro-2-phosphonoacetate in 10 mL of tetrahydrofuran. The reaction mixture is stirred at room temperature for 40 minutes. A solution of 803 mg of 3′-methylaminobiphenyl-4-carbaldehyde prepared as described in Example 5b (3.8 mmol) in 8 mL of tetrahydrofuran is then added dropwise. The reaction mixture is stirred at room temperature overnight. The reaction medium is poured into saturated ammonium chloride solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and the residue (2.2 g) is purified by chromatography on a column of silica eluted with an 85/15 heptane/ethyl acetate mixture. 936 mg (82%) of ethyl 2-fluoro-3-(3′-methylaminobiphenyl-4-yl)acrylate are obtained in the form of a yellow oil.

reactant | sodium hydride | 9.5 mmol, 382 mg | [H-].[Na+]
reactant | triethyl 2-fluoro-2-phosphonoacetate | 9.5 mmol, 1.9 mL | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | 3′-methylaminobiphenyl-4-carbaldehyde | 803 mg | CNC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C14H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | ethyl 2-fluoro-3-(3′-methylaminobiphenyl-4-yl)acrylate | 936 mg, 82% | FC(C(=O)OCC)=CC1=CC=C(C=C1)C1=CC(=CC=C1)NC | C18H18FNO2
